US08957070B2
[2-(1,3-Thiazol-2-yl)-1H-indol-7-yl]methanol
To a solution of benzyl 2-(1,3-thiazol-2-yl)-1H-indole-7-carboxylate (1.39 g) in tetrahydrofuran (30 mL) was added lithium aluminum hydride (0.200 g), and the mixture was stirred at room temperature for 1 hr. Lithium aluminum hydride (0.600 g) was added to the reaction solution, and the mixture was stirred at room temperature for 4 hr. Sodium sulfate-decahydrate (7.80 g) was added to the reaction mixture, and the mixture was stirred for 30 min and diluted with ethyl acetate. The obtained suspension was filtered through celite, washed with ethyl acetate, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=15:85-70:30) to give the title compound (0.564 g, yield 59%) as colorless crystals.

reactant | benzyl 2-(1,3-thiazol-2-yl)-1H-indole-7-carboxylate | 1.39 g | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C19H14N2O2S
reactant | lithium aluminum hydride | 0.200 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Lithium aluminum hydride | 0.600 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate-decahydrate | 7.80 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(1,3-Thiazol-2-yl)-1H-indol-7-yl]methanol | 0.564 g, yield 59% | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)CO | C12H10N2OS
